US04058550
A mixture of 2-phenyl-1,3-dioxan-5-yl 4-(n-hexadecylamino)benzoate, palladium black, and acetic acid is shaken under one atmosphere of hydrogen until hydrogen uptake ceases. The catalyst is separated by filtration and the solvent is evaporated. Crystallization from acetonitrile affords 1,3-dihydroxy-2-propyl 4-(n-hexadecylamino)benzoate as a white solid.

reactant | 2-phenyl-1,3-dioxan-5-yl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC2COC(OC2)C2=CC=CC=C2)C=C1 | C33H49NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium black | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,3-dihydroxy-2-propyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OC(CO)CO)C=C1 | C26H45NO4
